US06225288B1
Step 1: 5-(3-t-butoxy-3-oxo-1-propyl)-2-methoxyphenylacetic acid (10)
Methyl (Z)-5-t-butoxycarbonylvinyl-2-methoxyphenylacetate (250 mg, from above) in ethyl acetate (5 mL) in the presence of Pd/C (10% Pd content, 44 mg) was subjected to a Parr apparatus under 50 PSI of hydrogen gas for 1 hour. The mixture was filtered through celite and the filter cake washed with ethyl acetate. The filtrate and washing solution were combined and concentrated to give the desired product. 1H NMR (400 MHz, acetone-d6): δ 7.10 (d, 1H), 7.04 (s, 1H), 6.88 (d, 1H), 3.76 (s, 3H), 3.57 (s, 3H), 3.55 (s, 2H), 2.78 (t, 2H), 2.48 (t, 2H), 1.40 (s, 9H). This compound (100 mg) was then treated with LiOH monohydrate (27 mg) in ethanol/H2O (3:1, 4 mL) for 5 hours. The ethanol was evaporated on vacuo and the residual acidified to pH-1 and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and filtered. Concentration in vacuo afforded acid 10 (80 mg) as a white solid.

reactant | Methyl (Z)-5-t-butoxycarbonylvinyl-2-methoxyphenylacetate | 250 mg | C(C)(C)(C)OC(=O)\C=C/C=1C=CC(=C(C1)CC(=O)OC)OC | C17H22O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 44 mg | [Pd] | Pd
product | 5-(3-t-butoxy-3-oxo-1-propyl)-2-methoxyphenylacetic acid | C(C)(C)(C)OC(CCC=1C=CC(=C(C1)CC(=O)O)OC)=O | C16H22O5
